### PR TITLE
feat: adding Insert/Singleton/Union instances for HashMap/Set.Raw

### PR DESCRIPTION
**Pull request by kim-em**
These were missing from https://github.com/leanprover/lean4/pull/5581.

### CODE REVIEW

File: src/Std/Data/HashMap/Raw.lean [hunk 1]
```diff
@@ -231,10 +235,20 @@ m.inner.values
...
+@[inline] def union [BEq α] [Hashable α] (m₁ m₂ : Raw α β) : Raw α β :=
+  m₂.fold (init := m₁) fun acc x => acc.insert x
+
+instance [BEq α] [Hashable α] : Union (Raw α β) := ⟨union⟩
+
 @[inline, inherit_doc DHashMap.Raw.Const.unitOfList] def unitOfList [BEq α] [Hashable α]
     (l : List α) : Raw α Unit :=
   ⟨DHashMap.Raw.Const.unitOfList l⟩
 
+@[inline, inherit_doc DHashMap.Raw.Const.unitOfArray] def unitOfArray [BEq α] [Hashable α]
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Raw.lean:248]: Did this split in by accident?

Comment (kim-em) [reply src/Std/Data/HashMap/Raw.lean:248]: I noticed that `ofArray` was missing below -- just because I was putting `union` directly below `ofArray`, and then my anchor wasn't there.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 2]
```diff
@@ -87,6 +87,12 @@ theorem isEmpty_iff_forall_not_mem [EquivBEq α] [LawfulHashable α] :
     m.isEmpty = true ↔ ∀ a, ¬a ∈ m := by
   simpa [mem_iff_contains] using isEmpty_iff_forall_contains
 
+@[simp] theorem insert_eq_insert {p : (a : α) × β a} : Insert.insert p m = m.insert p.1 p.2 := rfl
+
+@[simp] theorem singleton_eq_insert {p : (a : α) × β a} :
+    Singleton.singleton p = (∅ : DHashMap α β).insert p.1 p.2 :=
+  rfl
+
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:95]: Sorry for scope-screeping this even more, but what do you think of providing a `LawfulSingleton` instance here? The law should hold by `rfl`.

File: src/Std/Data/HashMap/Raw.lean (hunk 1 above)
Comment (TwoFX) [reply src/Std/Data/HashMap/Raw.lean:248]: Ah, I hadn't seen #5369 because I was on vacation. Makes sense, thanks.

File: src/Std/Data/HashMap/Raw.lean [hunk 3]
```diff
@@ -74,6 +74,12 @@ set_option linter.unusedVariables false in
     (a : α) (b : β) : Raw α β :=
   ⟨m.inner.insert a b⟩
 
+instance [BEq α] [Hashable α] : Singleton (α × β) (Raw α β) := ⟨fun ⟨a, b⟩ => Raw.empty.insert a b⟩
+
+instance [BEq α] [Hashable α] : Insert (α × β) (Raw α β) := ⟨fun ⟨a, b⟩ s => s.insert a b⟩
+
+instance [BEq α] [Hashable α] : LawfulSingleton (α × β) (Raw α β) := ⟨fun _ => rfl⟩
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Raw.lean:81]: It looks like you only added two `LawfulSingleton` instances, but there should be six in total.

File: src/Lean/Elab/Tactic/LibrarySearch.lean [hunk 4]
```diff
@@ -24,8 +24,8 @@ Implementation of the `exact?` tactic.
 def exact? (ref : Syntax) (required : Option (Array (TSyntax `term))) (requireClose : Bool) :
     TacticM Unit := do
   let mvar ← getMainGoal
-  let (_, goal) ← (← getMainGoal).intros
-  goal.withContext do
+  let (_, goal) ← mvar.intros
+  mvar.withContext do
```
[the remark this answers is not in the document]
Comment (kim-em) [reply src/Lean/Elab/Tactic/LibrarySearch.lean:28]: Ugh, sorry. I've missed the boat for `v4.13.0-rc1` in any case, I'll deal with this in less of a hurry tomorrow.
